Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Erythromycin Base
 
Attending: ___
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
Laproscopic Appendectomy 

 
History of Present Illness:
Patient is ___ year old Female w/ h/o oophorectomy, C-Sections 
who presented to ED on ___ with  abdominal pain of 24 hrs 
duration. Pt states she has a mirena in place and has a history 
of crampy abdominal pain, but that this is
significantly different from previous episodes and has been
persistent. She has had some decrease in appetite, states that 
she had chills yesterday evening (no temp recorded) and has been 
persistently midly nauseated for the duration. She does have a 
history of chronic pain after an auto
accident several years ago.  

 
Past Medical History:
PMH: Budd ___, Chronic pain
PSH: R-sided Oophorectomy, CSection

 
Social History:
___
Family History:
Non-Contributory
 
Physical Exam:
GEN: A&O, NAD
HEENT: No scleral icterus
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l
ABD: Soft, mildy distended, nontender, no rebound or guarding, 
normoactive bowel sounds, no palbable masses
Dressing: Clean, dry, intact
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ - CT Abd/Pelvis - 
1. Finding compatible with early tip appendicitis, as described 
above. 
2. Hypodense lesion within the right lobe of the liver measuring 
up to 1.5 
cm, not definitively characterized as a cyst. Further evaluation 
with 
ultrasound non-emergently is recommended. 
3. A 2.8 cm left ovarian cyst. If the patient is pre-menopausal, 
this is 
likely physiologic. If the patient is post-menopausal, further 
evaluation 
with pelvic ultrasound is recommended. 
4. Fibroid uterus, with IUD in standard position. 
5. A 3 mm pulmonary nodule at the right base. Recommend followup 
in 12 
months if the patient is at high risk for intrathoracic 
malignancy. If there is low risk for intrathoracic malignancy, 
no further followup is warranted. 

___ 05:50AM BLOOD WBC-7.4 RBC-4.07* Hgb-12.3 Hct-36.4 
MCV-90 MCH-30.2 MCHC-33.8 RDW-13.4 Plt ___
___ 06:00AM   ___ PTT-23.6 ___
 
Brief Hospital Course:
The patient was admitted to the Acute Care Service for treatment 
of acute appendicits with laproscopic appendectomy. Please see 
Dr. ___ note for full description of the 
surgery. After a brief, uneventful stay in the PACU, the patient 
arrived on the floor with her pain well-contolled. The patient 
was hemodynamically stable.
Neuro: The patient received her home dose of Methadone and 
Dilaudid for adequate pain control. When tolerating oral intake, 
the patient was transitioned to oral pain medications. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirrometry were 
encouraged throughout hospitalization.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
1. Methadone 10 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
2. Quetiapine 25 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for sleep.  
 
Discharge Medications:
1. Methadone 10 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
2. Quetiapine 25 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for sleep.  
3. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed for Pain for 3 days.
Disp:*18 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Appendicitis

 
Discharge Condition:
Alert and Oriented. Stable and Ambulating.

 
Discharge Instructions:
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.
 
Followup Instructions:
___